US07423053B2
A solution of 1-(3-fluorophenyl)ethanone (14.0 g, 100 mmol) (Aldrich) in dioxane (250 mL) at 12-15° C. was treated with a solution of bromine (17 g, 105 mmol) in dioxane (120 mL) drop wise over 0.5 h. This was stirred for 15 min and most of the solvent removed. The residue was taken up in hexane (200 mL), washed 2× water, and dried (MgSO4). Solvent was removed to give 2-bromo-1-(3-fluorophenyl)ethanone. 1H NMR (CDCl3), 300 MHz) δ3.71 (s, 2H, CH2), 7.30-7.77(m, 4H, Aromatic).

reactant | 1-(3-fluorophenyl)ethanone | 100 mmol, 14.0 g | FC=1C=C(C=CC1)C(C)=O | C8H7FO
reactant | bromine | 105 mmol, 17 g | BrBr | Br2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(3-fluorophenyl)ethanone | BrCC(=O)C1=CC(=CC=C1)F | C8H6BrFO
